* Crossbar one bit

simulator lang=spice

.include '45nm_LP.pm'
.include 'MTJT.spi'
.include 'TRANSGATE.spi'


.param cap = 1.5f

.param Vvdd = 1.6

.param Vgnd = 0

.param Vread = 1

.param TpWrite = 0.7n
.param TpRead = 0.3n
.param TpPulse = 0.9n

* Wordlines controller
Vwl1 WL1T Gnd PWL 0 'Vgnd'
Vwl2 WL2T Gnd PWL 0 'Vgnd' 'TpPulse-1p' 'Vgnd' 'TpPulse' 'Vvdd' '5n' 'Vvdd' '5n+1p' 'Vgnd' '8n+TpRead' 'Vgnd' '8n+TpRead+1p' 'Vread' '9n-1p' 'Vread' '9n' 'Vgnd'
Vwl3 WL3T Gnd PWL 0 'Vgnd'

*Bitlines controller
Vbl1 BL1T Gnd PWL 0 'Vgnd'
Vbl2 BL2T Gnd PWL 0 'Vgnd' '5n+TpWrite-1p' 'Vgnd' '5n+TpWrite' 'Vvdd' '7n-1p' 'Vvdd' '7n' 'Vgnd'
Vbl3 BL3T Gnd PWL 0 'Vgnd'

*En controller
Vbl1en ENBl1 Gnd PWL 0 'Vgnd' 
Vbl2en ENBl2 Gnd PWL 0 'Vgnd' 'TpPulse-1p' 'Vgnd' 'TpPulse' 'Vvdd' '5n' 'Vvdd' '5n+1p' 'Vgnd' '5n+TpWrite-1p' 'Vgnd' '5n+TpWrite' 'Vvdd' '7n-1p' 'Vvdd' '7n' 'Vgnd' '8n+TpRead-1p' 'Vgnd' '8n+TpRead' 'Vvdd' '9n-1p' 'Vvdd' '9n' 'Vgnd'
Vbl3en ENBl3 Gnd PWL 0 'Vgnd' 


Vvdd Vdd Gnd 'Vvdd' 

* Bitcell
*R1 WL1 BL1 1k
X1 WL1 NM1 MTJT
Vtest1 BL1 NM1 0

X2 WL1 NM2 MTJT
Vtest2 BL2 NM2 0

X3 WL1 NM3 MTJT
Vtest3 BL3 NM3 0

X4 WL2 NM4 MTJT
Vtest4 BL1 NM4 0

X5 WL2 NM5 MTJT
Vtest5 BL2 NM5 0

X6 WL2 NM6 MTJT
Vtest6 BL3 NM6 0

X7 WL3 NM7 MTJT
Vtest7 BL1 NM7 0

X8 WL3 NM8 MTJT
Vtest8 BL2 NM8 0

X9 WL3 NM9 MTJT
Vtest9 BL3 NM9 0

*Tristate

X10 WL1T WL1 ENBl1 Vdd Gnd TG
X11 BL1T BL1 ENBl1 Vdd Gnd TG
X12 WL2T WL2 ENBl2 Vdd Gnd TG
X13 BL2T BL2 ENBl2 Vdd Gnd TG
X14 WL3T WL3 ENBl2 Vdd Gnd TG
X15 BL3T BL3 ENBl2 Vdd Gnd TG

*Bitlines Capacitance
Cbl1 BL1 Gnd 'cap'
Cbl2 BL2 Gnd 'cap'
Cbl3 BL3 Gnd 'cap'


.TRAN 1p 10n

.option rawfmt="psfbin"
